US08912208B2
F. Oxo-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidin-1-yl)-acetic acid
Oxo-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidin-1-yl)-acetic acid ethyl ester (229 mg, 0.46 mmol) was dissolved in THF/MeOH/DMF (3:1:1, 5 mL) and to the solution was added aqueous LiOH (4M, 1 mL). The mixture was stirred at room temperature for 18 hours, then the reaction mixture was filtered and purified by reverse-phase preparative HPLC to give the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.41 (m, 1 H) 1.52 (m, 1 H) 1.76 (td, J=13.89, 1.52 Hz, 2 H) 2.72-2.81 (m, 1 H) 2.96 (td, J=12.63, 2.27 Hz, 1 H) 3.16 (d, J=5.31 Hz, 1 H) 3.85 (dd, J=11.37, 2.27 Hz, 1 H) 4.37 (ddd, J=12.69, 1.83; 1.64 Hz, 1 H) 7.03 (d, J=8.59 Hz, 1 H) 7.31 (d, J=8.34 Hz, 2 H) 7.60 (d, J=8.34 Hz, 2 H) 7.78 (d, J=8.84 Hz, 1 H) 7.98 (dd, J=8.72, 2.65 Hz, 1 H) 8.55 (d, J=2.53 Hz, 1 H) 8.58 (dd, J=8.59, 2.02 Hz, 1 H) 8.90 (d, J=2.27 Hz, 1 H) 9.91 (s, 1 H); MS (M+H)+ 471.2.

reactant | Oxo-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidin-1-yl)-acetic acid ethyl ester | 0.46 mmol, 229 mg | C(C)OC(C(N1CCC(CC1)C1=CC=C(C=C1)C=1C=NC(=CC1)NC=1C=NC(=CC1)C(F)(F)F)=O)=O | C26H25F3N4O3
reactant | LiOH | 4M, 1 mL | [Li+].[OH-]
solvent | THF MeOH DMF | 5 mL | C1CCOC1.CO.CN(C)C=O
product | Oxo-(4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidin-1-yl)-acetic acid | O=C(C(=O)O)N1CCC(CC1)C1=CC=C(C=C1)C=1C=NC(=CC1)NC=1C=NC(=CC1)C(F)(F)F | C24H21F3N4O3
